US06384080B1
To a solution of 5-bromo-N-(4-chloro-3-methoxybenzyl)-2-fluorobenzamide (2.00 g) in toluene (40 mL) were added tetrakis(triphenylphosphine)palladium (217 mg) and tributylvinyltin (1.87 g), and the mixture was heated for 4 hours under reflux. After evaporation of the solvent, the residue was partitioned between ethyl acetate and saturated potassium fluoride solution. The remaining precipitates were removed by filtration. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (3:1) to give N-(4-chloro-3-methoxybenzyl)-2-fluoro-5-vinylbenzamide as pale yellow powders (1.51 g).

reactant | 5-bromo-N-(4-chloro-3-methoxybenzyl)-2-fluorobenzamide | 2.00 g | BrC=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)Cl)OC)C1)F | C15H12BrClFNO2
reactant | tributylvinyltin | 1.87 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 217 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-chloro-3-methoxybenzyl)-2-fluoro-5-vinylbenzamide | 1.51 g | ClC1=C(C=C(CNC(C2=C(C=CC(=C2)C=C)F)=O)C=C1)OC | C17H15ClFNO2
